US05861417
2.2.2 Synthesis of (3-(3,4-dichlorophenyl)-5-oxopyrrolidin-3-yl)acetic acid ethyl ester
Combine 3-cyano-3-(3,4-dichlorophenyl)pentanedioic acid diethyl ester (32 g, 89 mmol) and ethanol (150 mL) in a Parr bottle. Add Raney nickel (100 g) and an aqueous concentrated ammonia solution (40 mL),. Hydrogenate at 50 psi for 24 h. Filter through a celite pad and rinse the solids with ethanol. Evaporate the filtrate invacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 6% methanol/dichloromethane to give the title compound: Rf= 0.34 (silica gel, 6% methanol/dichloromethane); mp; 87°-90° C. Elemental Analysis calculated for C14H15Cl2NO3 : C 53.18; H 4.78; N 4.43; Found: C 53.:34; H 4.71; N 4.51.

reactant | 3-cyano-3-(3,4-dichlorophenyl)pentanedioic acid diethyl ester | 89 mmol, 32 g | C(C)OC(CC(CC(=O)OCC)(C1=CC(=C(C=C1)Cl)Cl)C#N)=O | C16H17Cl2NO4
reactant | ethanol | 150 mL | C(C)O | C2H6O
reactant | ammonia | 40 mL | N | H3N
catalyst | Raney nickel | 100 g | [Ni] | Ni
solvent | methanol dichloromethane | CO.ClCCl
product | (3-(3,4-dichlorophenyl)-5-oxopyrrolidin-3-yl)acetic acid ethyl ester | C(C)OC(CC1(CNC(C1)=O)C1=CC(=C(C=C1)Cl)Cl)=O | C14H15Cl2NO3
